US07691882B2
4-Butoxymethyl-benzaldehyde
To a solution of 1-bromo-4-butoxymethyl-benzene (11.5 g, 47.3 mmol) described in Manufacturing Example 4-1-1 in tetrahydrofuran (200 mL) was added n-butyl lithium (32.5 mL, 1.6 M hexane solution, 52.0 mmol) at −78° C. This mixture was stirred for 55 minutes at −78° C., and N,N-dimethylformamide (4.4 mL, 56.8 mmol) was added thereto at −78° C. This mixture was warmed to room temperature, and stirred for 20 minutes. The reaction solution was partitioned into water and ethyl acetate at 0° C. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=10:1) to obtain the title compound (7.39 g, 81%).

reactant | 1-bromo-4-butoxymethyl-benzene | 47.3 mmol, 11.5 g | BrC1=CC=C(C=C1)COCCCC | C11H15BrO
reactant | n-butyl lithium | 52.0 mmol, 1.6 M, 32.5 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 56.8 mmol, 4.4 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-Butoxymethyl-benzaldehyde | 7.39 g, 81% | C(CCC)OCC1=CC=C(C=O)C=C1 | C12H16O2
